Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization with no intervention

 
History of Present Illness:
Per admitting HPI:

___ pmhx CAD s/p LAD stent ___ presenting with cc chest pain.

Reports intermittent inconsistently-exertional R sided chest, 
arm
& throat discomfort. Started 1 week ago, worsening. Worst 
episode
morning of presentation.

+ SOB as predominant sxs, it is exertional at times but does
occur at rest. He does feel the exertional components are
worsening especially the last couple days.
+ R sided chest discomfort at times correlating with chest
discomfort

Took SL nitro on his own, 162 ASA, presented to ___ 
___,
trop negative @ 9:30am. Transferred to ___ as he receives his
care here. 

Throat pain improves with CPAP.

Recent stress ECHO ___ showed inducible ischemia. Reportedly 
had
been discussing outpatient catheterization with his 
cardiologist.

 
Past Medical History:
- Cath in ___, DES to LAD: ___ diag jailed by the above stent, 
40% ostial stenosis. EF 50-55%
- sleep apnea

 
Social History:
___
Family History:
? metastatic adenocarinoma in an other family member; AAA in 
another family member; ALS in his sister; Age related dementia 
in his mother; CAD/PVD in his father; Cancer - ___ in his 
father; ___ - Type II in his mother; ___ in an other 
family member; cva in his father; melanoma in an other family 
member; non Hodgkins lymphoma in his brother.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VS: 97.8PO 123 / 73R Lying 45 18 95 Ra
GEN: well appearing, NAD
HEENT: MMM
CV: mildly brady but regular nl s1/s2
PULM:  CTA b/l no wrc
GI: S/ND/NT
EXT: WWP, non-edematous

========================
DISCHARGE PHYSCIAL EXAM
========================
Vitals: ___ 0748 Temp: 97.5 PO BP: 140/85 HR: 62 RR: 18 O2
sat: 94% O2 delivery: RA 
GENERAL: Well appearing gentleman, lying in bed in no acute
distress
HEENT: EOMI, atraumatic, normocephalic. Neck supple. No JVD. MMM
CV: Normal rate, regular rhythm. No murmurs/rubs/gallops
appreciated. 
PULM: Lungs clear to auscultation bilaterally. No
wheezes/crackles appreciated
ABD: Soft, non-tender, non-distended. Normal bowel sounds.
EXTREM: No peripheral edema. Pulses 2+ bilaterally
NEURO: Alert and oriented x3
 
Pertinent Results:
==================
ADMISSION LABS
==================
___ 02:56PM BLOOD WBC-6.2 RBC-5.01 Hgb-15.6 Hct-44.5 MCV-89 
MCH-31.1 MCHC-35.1 RDW-12.6 RDWSD-40.8 Plt ___
___ 02:56PM BLOOD Neuts-51.5 ___ Monos-6.3 Eos-0.8* 
Baso-0.5 Im ___ AbsNeut-3.22 AbsLymp-2.54 AbsMono-0.39 
AbsEos-0.05 AbsBaso-0.03
___ 02:56PM BLOOD ___ PTT-26.6 ___
___ 02:56PM BLOOD Plt ___
___ 02:56PM BLOOD Glucose-88 UreaN-14 Creat-0.8 Na-141 
K-4.4 Cl-103 HCO3-25 AnGap-13
___ 02:45PM BLOOD cTropnT-<0.01
___ 09:25PM BLOOD CK-MB-8 cTropnT-<0.01
___ 02:56PM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1

======================
PERTINENT INTERIM LABS
======================
- None

===========
IMAGING
===========
Cardiac Cath ___
• Widely patent stent in proximal LAD in this right dominant 
coronary system.
• No noticeable angiographic progression in the severity of CAD

=============
MICROBIOLOGY
=============
- None

==============
DISCHARGE LABS
==============
___ 11:15AM BLOOD WBC-5.3 RBC-4.90 Hgb-15.3 Hct-43.2 MCV-88 
MCH-31.2 MCHC-35.4 RDW-12.5 RDWSD-40.3 Plt ___
___ 11:15AM BLOOD Plt ___
___ 11:15AM BLOOD Glucose-98 UreaN-14 Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-26 AnGap-10
___ 11:15AM BLOOD CK-MB-6 cTropnT-<0.01
___ 11:15AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.___ pmhx CAD s/p LAD stent ___ presenting with complaints of 
chest tightness and shortness of breath w/ exercise and 
occasionally at rest, concerning for unstable angina.

#CAD w/ New, Worsening, Chest Pain: Chest pain at rest and w/ 
exercise, concerning for unstable angina. EKG showed NSR and 
troponins were negative x2. Outpt stress echo on ___ w/ 
anteroseptal wall hypokinesis & EF of 50-55%. Was undergoing 
workup for outpt cath before this, more acute, chest pain began. 
Pt was admitted evening of ___ and underwent cardiac 
catheterization on ___ which did not demonstrate any significant 
blockages to explain his symptoms. He was continued on his home 
aspirin. Statin was deferred given intolerance in the past. 
given the anginal nature of his chest pain, it was decided to 
schedule him for an outpatient nuclear stress test to further 
evaluate for myocardial ischemia. He had no other acute issues 
while in-house.

TRANSITIONAL ISSUES
[] Please ensure that patient is scheduled for outpatient 
nuclear stress test
[] If stress test is unrevealing, consider other etiologies for 
chest pain (i.e. GERD, esophageal spasm, etc.)

# CODE STATUS: Full
# CONTACT ___ ___ (wife)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Chest pain
Secondary Diagnosis: Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
You were admitted because you were having chest pain. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
You had a cardiac catheterization to check for blockages in your 
heart blood vessels, but no blockages were detected. 
  
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
As we discussed, you should follow up with your cardiologist, 
and you will be scheduled for a nuclear stress test to further 
evaluate your heart.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  
 
Followup Instructions:
___